US05688991
In a three-necked flask, 19.4 g (0.1 mole) of ferulic acid, 6.01 g (0.1 mole) of n-propyl alcohol, and 1.0 g of paratoluenesulfonic acid were placed, and 200 ml of benzene was added. This reaction mixture was stirred at 78° C. for 15 hours. Thereafter, the same procedures were taken as in Example 1 to obtain 15.2 g (yield: 64%) of n-propyl ferulate.

reactant | ferulic acid | 0.1 mole, 19.4 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | n-propyl alcohol | 0.1 mole, 6.01 g | C(CC)O | C3H8O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | n-propyl ferulate | 15.2 g, yield: 64% | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)OCCC | C13H16O4
